US08124606B2
Compound 111: (S)-3-chloro-N-methyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide
To a suspension of (S)-3-((S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (111 mg, 0.476 mmol) in propiononitrile (1.2 mL) was added (cyanomethyl)trimethylphosphonium iodide (139 mg, 0.571 mmol) and DIEA (249 μl, 1.428 mmol) and finally 3-chloro-N-methyl-4-(piperazin-1-yl)benzamide hydrochloride (138 mg, 0.476 mmol). The vial was heated to 90° C. for 16 hours. The crude rxn was cooled to RT, DMSO (1 ml) was added, and purified via HPLC (55-90, basic). The fractions were collected, concentrated until a precipitate was visible and filtered. The solids were washed with water and collected to retrieve the product as a white solid (64 mg, 29% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.52 (br. s., 1H), 8.43 (d, J=4.3 Hz, 1H), 7.87 (s, 1H), 7.76 (dd, J=8.3, 1.5 Hz, 1H), 7.66 (d, J=2.0 Hz, 1H), 7.54-7.74 (m, 1H), 7.19 (d, J=8.1 Hz, 1H), 6.99 (br. s., 1H), 4.52 (d, J=12.6 Hz, 1H), 3.85 (br. s., 1H), 3.44 (br. s., 2H), 2.92 (d, J=4.5 Hz, 4H), 2.75 (d, J=4.5 Hz, 4H), 2.52-2.69 (m, 3H), 1.99-2.09 (m, 1H), 1.85 (d, J=12.4 Hz, 1H), 1.64 (d, J=12.4 Hz, 1H), 1.32-1.58 (m, 3H). [M+H] calc'd for C24H29ClN6O2, 469; found, 469.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.476 mmol, 111 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.571 mmol, 139 mg | [I-].C(#N)C[P+](C)(C)C
reactant | DIEA | 1.428 mmol, 249 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-N-methyl-4-(piperazin-1-yl)benzamide hydrochloride | 0.476 mmol, 138 mg | Cl.ClC=1C=C(C(=O)NC)C=CC1N1CCNCC1
solvent | propiononitrile | 1.2 mL | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (S)-3-chloro-N-methyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 64 mg, 29% yield | ClC=1C=C(C(=O)NC)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C24H29ClN6O2
